* AD8671 SPICE Macro-model                   
* Description: Amplifier
* Generic Desc: 10/30V, BIP, OP, Low Noise, Low Ib, 1X
* Developed by: HH/ADI-SJ, Soufiane Bendaoud ADI Silicon valley
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (12/2009) - Corrected unpowered Ibais, PM, PSRR, IVR.  Changed noise gen,
*      		  Added input C.
* 1.0 ( 07/2003) 
* Copyright 2003, 2009, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
* This model simulates typical values at Vs=±15V
*
* END Notes
*
* Node assignments
*            	       non-inverting input
*        	       |    inverting input
*       	       |    |    positive supply
*                      |    |     |     negative supply
*                      |    |     |     |   output
*                      |    |     |     |      |
.SUBCKT AD8671         1    2     99    50     39
*
* INPUT STAGE 
*
R3   5  99    2.033E+04
R4   6  99    2.033E+04
CIN  1   2    7.45E-12
CCM1 1  50    6.25E-12
CCM2 2  50    6.25E-12
RC   5  56    5.3E+03 
CC   56  6    2.14E-13
I1   4  50    300E-06
VI1  450 50   2.7
DI1  450  4   DX
IOS  1   2    3E-9
EOS  9  1    POLY(4)  (31 98) (81 98) (83 98) (73 98)  20E-6  1 1  1 1
Q1   5  2  4  QINN
Q2   6  9  4  QINN
D1   2   1    DX
D2   1   2    DX
GN1  50  2    (60 61)  1.453E-05
GN2  50  1    (62 63)  1.453E-05
*
* GAIN STAGE 
*
R7   20 98     1.652E+05
C3   20 98     5.61E-07
G1   98 20     (5 6) 3.603E-01
EV1   98 21 POLY(1) (99 98)  -2.0E0 10E-1
EV2   22 98 POLY(1) (98 50)  -2.3E0 10E-1
D5   21 20     DX
D6   20 22     DX
EPLUS 97 0    99  0  1
ENEG  51 0    50  0  1 
Rtemp1 97 51 1meg
*
* COMMON-MODE GAIN NETWORK
*
E5   30 98     POLY(2) (2 50) (1 50)  0  4.196E-03  4.196E-03
RCM1 30 31     1.061E+03
RCM2 31 98     1.592E-01
CCM  30 31     1.000E-06
*
* PSRR NETWORK
*
EPSY 98 72 POLY(1) (99,50) 3.350E-03  9.375E-01 
CPS3 72 73 1.000E-06
RPS3 72 73 9.947E+02
RPS4 73 98 1.061E-02
*
* VOLTAGE NOISE REFERENCE OF 2.8nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 26.34E-3
HN  81 98 VN1 2.80E+00
RN2 81 98 1
*
* FLICKER NOISE CORNER 
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.65520
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
D60 60 0 DIN1 1000
I60 0 60 1m
D61 61 0 DIN1
I61 0 61 1u
*
* SECOND CURRENT NOISE SOURCE
*
D62 62 0 DIN1
I62 0 62 1u
D63 63 0 DIN1
I63 0 63 1u
*
R17  33 99     1meg
R18  33 50     1meg
C178 33 50    1E-06
C188 33 99    1E-06
EREF  98 0    33  0  1
*
GSY  99 50     POLY(1) 99 50 2.24E-3 15E-6
*
* OUTPUT STAGE
*
R19  34 99     100
R20  34 50     100
G9   34 99     99 20  1.000E-02
G10  50 34     20 50  1.000E-02
*
V3   35 34     0.65 
D9   20 35     DX
V4   34 36     0.52; 
D10  36 20     DX
*
G7   37 50     20 34  1.0E-2
G8   38 50     34 20  1.0E-2
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
*
F1   34  0     V3  1
F2   0  34     V4  1
*
L3   34 39     1E-8;  39 is output pin
*
* MODELS USED
*
.MODEL QINN NPN(BF=3.0E4, VA=130)
.MODEL DX   D(IS=1E-15, RS=1m)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DEN  D(IS=1E-12, RS=4.0E+2, KF=1.08E-16, AF=1)
.MODEL DNOISE D(IS=1E-14,RS=1E-1,KF=3.14E-14)
.MODEL DIN  D(IS=1E-18, RS=1.0E-6, KF=1.82E-14, AF=1)
.MODEL DIN1 D(IS=1E-16, RS=1.0E-0, KF=3.7E-16, AF=1)
.ENDS AD8671
*$




